US06921763B2
2,2-Dimethyl-3-phenylpropanoyl chloride (52 mg, 0.264 mmol) was added to a solution of trans-3-(4-amino-2-fluoro-5-methoxyphenyl)-1-[4-(4-methylpiperazino)cyclohexyl]-1H-pyrazolo[3,4-d]pyrimidin-4-amine (80 mg, 0.176 mmol) in pyridine (1.5 mL). After 5 hours, the solvent was evaporated and the residue was first purified by flash column chromatography chromatography using dichloromethane/methanol (95:5 to 85:15) as mobile phase then by preparatory LC/MS to give trans-N1-(4-{4-amino-1-[4-(4-methylpiperazino)cyclohexyl]-1H-pyrazolo[3,4-d]pyrimidin-3-yl}-5-fluoro-2-methoxyphenyl)-2,2-dimethyl-3-phenylpropanamide (22 mg, 19%). 1H NMR (CDCl3-d) δ 1.33 (s, 6H), 1.57 (m, 2H), 1.92 (m, 2H), 2.15 (m, 6H), 2.30 (s, 3H), 2.49 (m, 4H), 2.66 (m, 3H), 2.95 (s, 2H), 3.84 (s, 3H), 4.76 (m, 1H), 5.51 (bs, 2H), 6.98 (d, J=6.86 Hz, 1H), 7.15 (m, 2H), 7.23 (m, 3H), 8.01 (s, 1H), 8.35 (s, 1H), 8.47 (d, J=11.88, 1H). LCMS LCMS (Thermoquest AQA single Quad MS, Finnigan HPLC-Column: Genesis, C18, 3 um, 33×4.6 mm. Eluents: 30% B/A to 95% B/A in 4.5 min. (B: acetonitrile, A: 50 mM ammonia acetate buffer, pH 4.5), 0.8 mL/min.): MH+=615.3, Rt=2.18 min.

reactant | 2,2-Dimethyl-3-phenylpropanoyl chloride | 0.264 mmol, 52 mg | CC(C(=O)Cl)(CC1=CC=CC=C1)C | C11H13ClO
reactant | trans-3-(4-amino-2-fluoro-5-methoxyphenyl)-1-[4-(4-methylpiperazino)cyclohexyl]-1H-pyrazolo[3,4-d]pyrimidin-4-amine | 0.176 mmol, 80 mg | NC1=CC(=C(C=C1OC)C1=NN(C2=NC=NC(=C21)N)[C@@H]2CC[C@H](CC2)N2CCN(CC2)C)F | C23H31FN8O
solvent | pyridine | 1.5 mL | N1=CC=CC=C1 | C5H5N
product | trans-N1-(4-{4-amino-1-[4-(4-methylpiperazino)cyclohexyl]-1H-pyrazolo[3,4-d]pyrimidin-3-yl}-5-fluoro-2-methoxyphenyl)-2,2-dimethyl-3-phenylpropanamide | 22 mg, 19% | NC1=C2C(=NC=N1)N(N=C2C2=CC(=C(C=C2F)NC(C(CC2=CC=CC=C2)(C)C)=O)OC)[C@@H]2CC[C@H](CC2)N2CCN(CC2)C | C34H43FN8O2
